US08258119B2
Synthesis of 6-amino-3-methylthiopheno[2,3-d]1,2,3-triazin-4-one (Compound 17)
To a solution of 3-methyl-6-nitrothiopheno[2,3-d]1,2,3-triazin-4-one (1.25 g, 5.9 mmol) in methanol (50 mL) was added conc. Hydrochloric acid (0.6 mL). To the above solution was added iron powder (1.67 g, 29.5 mmol) followed by a solution of ammonium chloride (1.57 g, 29.5 mmol) in water (10 mL) at rt. The reaction mixture was stirred and warmed to 70 for 1 h and was then allowed to cool to rt. The solution was filtered and basified with saturated sodium bicarbonate solution. The solution was extracted with ethyl acetate (4×100 mL). The combined organic layer was dried over sodium sulfate and filtered. Solvent was evaporated and the residue was chromatographed over silica gel column using hexane-ethyl: acetate (60:40) as eluents to give the product as a pale yellow color solid (80 mg, 7.5%), mp 190-194° C. 1H NMR (400 MHz, DMSO-d6): δ 7.40 (2H, s), 6.11 (1H, s), 3.82 (3H, s); LC-MS (negative ion mode): m/z 181 (M−H)−.

reactant | 3-methyl-6-nitrothiopheno[2,3-d]1,2,3-triazin-4-one | 5.9 mmol, 1.25 g | CN1N=NC2=C(C1=O)C=C(S2)[N+](=O)[O-] | C6H4N4O3S
reactant | Hydrochloric acid | 0.6 mL | Cl | ClH
reactant | ammonium chloride | 29.5 mmol, 1.57 g | [Cl-].[NH4+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
catalyst | iron | 29.5 mmol, 1.67 g | [Fe] | Fe
product | 6-amino-3-methylthiopheno[2,3-d]1,2,3-triazin-4-one | 80 mg, 7.5% | NC1=CC2=C(N=NN(C2=O)C)S1 | C6H6N4OS
